US04016155
To 10 g. of 2,2,2-trichloroethyl 7β-amino-3-methyl-3-cephem-4-carboxylate hydrochloride was added about 70 ml. of water. About 2.5 g. of sodium bicarbonate was added thereto and, after stirring for a while, the resultant was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated at a temperature below 35° C. The so obtained free base was dissolved in 40 ml. of methanol and 5 g. of 4-hydroxy-3,5-di-tert.-butylbenzaldehyde was added thereto and stirring was continued at room temperature for 4 hours. The insolubles were dissolved by heating briefly and the reaction mixture was concentrated into a half amount thereof, which was then cooled to separate out crystalline substances. The substances were recovered by filtration and washed with cold methanol to give 2,2,2-trichloroethyl 7β-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-3-methyl-3-cephem-4-carboxylate. Yield 7 g. The product was recrystallized from a small amount of methanol to give the pure product as slightly yellow colored crystals. m.p. 94° C.

reactant | 2,2,2-trichloroethyl 7β-amino-3-methyl-3-cephem-4-carboxylate hydrochloride | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 4-hydroxy-3,5-di-tert.-butylbenzaldehyde | OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C15H22O2
solvent | methanol | CO | CH4O
product | 2,2,2-trichloroethyl 7β-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-3-methyl-3-cephem-4-carboxylate | OC1=C(C=C(C=N[C@H]2[C@@H]3N(C(=C(CS3)C)C(=O)OCC(Cl)(Cl)Cl)C2=O)C=C1C(C)(C)C)C(C)(C)C | C25H31Cl3N2O4S
